US04894426
A one-liter, four-necked flask was equipped with a thermometer, a condensor, an inlet tube for nitrogen gas and an outlet tube for vent gases. Chloropropyltrimethoxysilane (198.72 g) was introduced into the flask, together with 50 g of anhydrrous 1,1,1-trichloroethane and 86.14 g of 1-(2-aminoethyl)- piperazine. The mixture was heated to 80° C. with continuous agitation for four hours and then cooled to room temperature. The reaction mixture was rapidly filtered to collect the 1-(2-aminoethyl)piperazine hydrochloride salt which had formed. The filtrate was distilled to yield 182 g of 1-[2-[3-(trimethoxysilyl)- propyl]aminoethyl]piperazine, bp 120°-143° C. at 10 mm Hg (69 kPa) as a pale yellow oil. The yield corresponded to 64% of theoretical. This material was used as an accelerator and adhesion promoter in the sealant compositions of this invention as detailed below in Example 5.

reactant | Chloropropyltrimethoxysilane | 198.72 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
reactant | 1,1,1-trichloroethane | 50 g | ClC(C)(Cl)Cl | C2H3Cl3
reactant | 1-(2-aminoethyl)- piperazine | 86.14 g | NCCN1CCNCC1 | C6H15N3
product | 1-[2-[3-(trimethoxysilyl)- propyl]aminoethyl]piperazine | 182 g | CO[Si](CCCNCCN1CCNCC1)(OC)OC | C12H29N3O3Si
